US04927452
A mixture of 2.51 g of N-(2,6-difluorophenylsulphonyl)methylcarbamate, 1.68 g of 3-methyl-2-pyrazoline and 3 ml of pyridine in 20 ml of dioxane is heated on a steambath for 2 hours. After cooling the solvent is evaporated under reduced pressure and the residue is dissolved in 20 ml of water. This solution is filtrated and then acidified with conc. hydrochloric acid. The title compound, viz. 1-(2,6-difluorophenylsulphonylcarbamoyl)-3-methyl-2-pyrazoline, is obtained in a yield of 2.50 g; melting point 196° C.

reactant | N-(2,6-difluorophenylsulphonyl)methylcarbamate | 2.51 g | FC1=C(C(=CC=C1)F)S(=O)(=O)CNC([O-])=O
reactant | 3-methyl-2-pyrazoline | 1.68 g | CC1=NNCC1 | C4H8N2
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(2,6-difluorophenylsulphonylcarbamoyl)-3-methyl-2-pyrazoline | FC1=C(C(=CC=C1)F)S(=O)(=O)NC(=O)N1N=C(CC1)C | C11H11F2N3O3S
